US05302718
2-Hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]ethynyl]-benzoic acid
3-methyl-2-pyridinamine (1.3 g, 12 mmol) was dissolved in dry pyridine (20 ml) and ethyl 2-acetyloxy-5-[(4-chlorosulfonylphenyl)ethynyl]-benzoate (4.1 g, 10 mmol) was added. The solution was kept at ambient temperature for 18 h. The solvent was evaporated and the residue dissolved in a small amount of tetrahydrofuran. The solution was added to a refluxing solution of potassium hydroxide (6 g) in water (100 ml) and ethanol (50 ml). After 15 min the solution was acidified with formic acid to produce a precipitate. The solid was collected by filtration, washed with water and dried. Yield 1.2 g, 29%.

reactant | 3-methyl-2-pyridinamine | 12 mmol, 1.3 g | CC=1C(=NC=CC1)N | C6H8N2
reactant | ethyl 2-acetyloxy-5-[(4-chlorosulfonylphenyl)ethynyl]-benzoate | 10 mmol, 4.1 g | C(C)(=O)OC1=C(C(=O)OCC)C=C(C=C1)C#CC1=CC=C(C=C1)S(=O)(=O)Cl | C19H15ClO6S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-Hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]ethynyl]-benzoic acid | OC1=C(C(=O)O)C=C(C=C1)C#CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C21H16N2O5S
